US05116745
Preparation of 2-Decanoyl glycerol
Tridecanoin (45.0 mmole, 25.0 g) is dissolved in petroleum ether, b.p. 35° C.-60° C., (600 ml) and n-butanol (110 ml). This solution is mixed with 0.05 M phosphate buffer (110 ml) containing lipolase (Novo) 100L (9.0 g) and stirred at 37° C. for 3 hours. After separation of phases, the organic solution is evaporated at reduced pressure and temperature (below 30° C.) to a volume of about 100 ml. This solution is diluted with hexane (500 ml) and cooled to -78° C. using a dry ice-isopropanol bath. The precipitate is filtered below 0° C. and dried. Yield of 2-decanolyl glycerol is 7.2 g (65%).

reactant | Tridecanoin | 45.0 mmole, 25.0 g | CCCCCCCCCC(=O)OCC(COC(=O)CCCCCCCCC)OC(=O)CCCCCCCCC | C33H62O6
reactant | phosphate | 0.05 M, 110 ml | P(=O)([O-])([O-])[O-]
solvent | n-butanol | 110 ml | C(CCC)O | C4H10O
product | 2-Decanoyl glycerol | C(CCCCCCCCC)(=O)OC(CO)CO | C13H26O4
